### PR TITLE
[Merged by Bors] - feat(DifferentialForm): pullback commutes with exterior derivative

### PR DESCRIPTION
**Pull request by urkud**
---

- [x] depends on: #30331 
- [x] depends on: #30182
- [x] depends on: #30491
- [x] depends on: #30018
- [x] depends on: #29985 
- [x] depends on: #29984
- [x] depends on: #29957

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Analysis/Calculus/DifferentialForm/Basic.lean [hunk 1]
```diff
@@ -223,13 +225,42 @@ theorem extDerivWithin_extDerivWithin_eqOn (hω : ContDiffOn 𝕜 r ω s) (hr :
   rintro x ⟨h'x, hx⟩
   exact extDerivWithin_extDerivWithin_apply (hω.contDiffWithinAt h'x) hr hs hx h'x
 
-/-- The second exterior derivative of a sufficiently smooth differential form is zero. -/
+/-- Second exterior derivative of a sufficiently smooth differential form is zero. -/
```
Comment (urkud) [inline Mathlib/Analysis/Calculus/DifferentialForm/Basic.lean]:
```suggestion
/-- The second exterior derivative of a sufficiently smooth differential form is zero. -/
```

File: Mathlib/Analysis/Calculus/DifferentialForm/Basic.lean [hunk 2]
```diff
@@ -223,13 +225,42 @@ theorem extDerivWithin_extDerivWithin_eqOn (hω : ContDiffOn 𝕜 r ω s) (hr :
...
 theorem extDeriv_extDeriv_apply (hω : ContDiffAt 𝕜 r ω x) (hr : minSmoothness 𝕜 2 ≤ r) :
     extDeriv (extDeriv ω) x = 0 := by
   simp only [← extDerivWithin_univ]
   apply extDerivWithin_extDerivWithin_apply (s := univ) hω.contDiffWithinAt hr <;> simp
 
-/-- The second exterior derivative of a sufficiently smooth differential form is zero. -/
+/-- Second exterior derivative of a sufficiently smooth differential form is zero. -/
```
Comment (urkud) [inline Mathlib/Analysis/Calculus/DifferentialForm/Basic.lean]:
```suggestion
/-- The second exterior derivative of a sufficiently smooth differential form is zero. -/
```

File: Mathlib/Analysis/Normed/Module/Alternating/Uncurry/Fin.lean [hunk 3]
```diff
@@ -165,21 +166,80 @@ theorem alternatizeUncurryFin_constOfIsEmptyLIE_comp (f : E →L[𝕜] F) :
...
+f(v_i, v_j; v_0, \dots, \hat{v_i}, \dots, \hat{v_j}-) -
+f(v_j, v_i; v_0, \dots, \hat{v_i}, \dots, \hat{v_j}-)
+$$
+
+over all `(i j : Fin (n + 2))`, `i < j`, taken with appropriate signs.
+Here $$\hat{v_i}$$ and $$\hat{v_j}$$ mean that these vectors are removed from the tuple.
+
+We use pairs of `i j : Fin (n + 1)`, `i ≤ j`,
+to encode pairs `(i.castSucc : Fin (n + 2), j.succ : Fin (n + 2))`,
+so the power of `-1` is off by one compared to the informal texts.
```
Comment (j-loreaux) [inline Mathlib/Analysis/Normed/Module/Alternating/Uncurry/Fin.lean:183]: Can you say a bit more about the reasoning for this choice? From what I can tell, it seems like the point is to make the statement as clean as possible, which makes sense. But if we're going to differ from the literature, even if only in appearance, it would be nice to have clear justification.

File: Mathlib/Analysis/Normed/Module/Alternating/Basic.lean [hunk 4]
```diff
@@ -512,6 +517,43 @@ lemma fderivCompContinuousLinearMap_apply (f : F [⋀^ι]→L[𝕜] G) (g dg : E
...
+
+variable (G) in
+/-- `fderivCompContinuousLinearMap` as a continuous linear map. -/
+def fderivCompContinuousLinearMapCLM (g : E →L[𝕜] F) :
+    (F [⋀^ι]→L[𝕜] G) →L[𝕜] (E →L[𝕜] F) →L[𝕜] (E [⋀^ι]→L[𝕜] G) :=
+  LinearMap.mkContinuous
+    { toFun := (fderivCompContinuousLinearMap · g)
+      map_add' f₁ f₂ := by ext; simp [Finset.sum_add_distrib]
+      map_smul' c f := by ext; simp [Finset.smul_sum]
+    } (Fintype.card ι * ‖g‖ ^ (Fintype.card ι - 1)) fun f ↦ by
```
Comment (j-loreaux) [inline Mathlib/Analysis/Normed/Module/Alternating/Basic.lean]: I think this adheres better to the style guide (ever so slightly), and more importantly, I find it far easier to parse.
```suggestion
      map_smul' c f := by ext; simp [Finset.smul_sum] }
    (Fintype.card ι * ‖g‖ ^ (Fintype.card ι - 1))
    fun f ↦ by
```

File: Mathlib/Analysis/Normed/Module/Alternating/Uncurry/Fin.lean (hunk 3 above)
Comment (j-loreaux) [reply Mathlib/Analysis/Normed/Module/Alternating/Uncurry/Fin.lean:183]: Maybe you can disregard this, as I see this is not the only place this choice has been implemented.

Comment (urkud) [reply Mathlib/Analysis/Normed/Module/Alternating/Uncurry/Fin.lean:183]: The main reason is that currently we have no way to remove 2 elements given by `i j : Fin (n + 2)`, `i \ne j`.

Comment (urkud) [reply Mathlib/Analysis/Normed/Module/Alternating/Uncurry/Fin.lean:183]: If we want to get closer to textbooks, then we need to introduce this operation.

File: Mathlib/Analysis/Normed/Module/Alternating/Basic.lean [hunk 5]
```diff
@@ -512,6 +517,44 @@ lemma fderivCompContinuousLinearMap_apply (f : F [⋀^ι]→L[𝕜] G) (g dg : E
...
+      refine ContinuousLinearMap.opNorm_le_bound _ (by positivity) fun dg ↦ ?_
+      refine opNorm_le_bound _ (by positivity) fun v ↦ ?_
+      simp? [mul_assoc] says
+        simp only [LinearMap.coe_mk, AddHom.coe_mk, fderivCompContinuousLinearMap_apply, mul_assoc]
+      refine (norm_sum_le _ _).trans ?_
+      grw [← nsmul_eq_mul]
+      apply Finset.sum_le_card_nsmul
+      rintro i -
+      grw [le_opNorm]
+      simp? [mul_left_comm (‖g‖ ^ _), Fintype.prod_eq_mul_prod_compl i] says
```
Comment (grunweg) [inline Mathlib/Analysis/Normed/Module/Alternating/Basic.lean]: I'm not sure if this `says` is really necessary: up to you.

File: Mathlib/Analysis/Normed/Module/Alternating/Basic.lean [hunk 6]
```diff
@@ -512,6 +517,44 @@ lemma fderivCompContinuousLinearMap_apply (f : F [⋀^ι]→L[𝕜] G) (g dg : E
       ∑ i, f fun j ↦ Function.update (fun _ ↦ g) i dg j (v j) := by
   simp [fderivCompContinuousLinearMap]
 
+@[nontriviality]
+lemma fderivCompContinuousLinearMap_of_isEmpty [IsEmpty ι] :
+    fderivCompContinuousLinearMap (ι := ι) (𝕜 := 𝕜) (E := E) (F := F) (G := G) = 0 := by
+  ext; simp
+
+variable (G) in
+/-- `fderivCompContinuousLinearMap` as a continuous linear map. -/
```
Comment (grunweg) [inline Mathlib/Analysis/Normed/Module/Alternating/Basic.lean]:
```suggestion
/-- `fderivCompContinuousLinearMap` as a continuous linear map -/
```

File: Mathlib/Analysis/Normed/Module/Alternating/Basic.lean [hunk 7]
```diff
@@ -512,6 +517,44 @@ lemma fderivCompContinuousLinearMap_apply (f : F [⋀^ι]→L[𝕜] G) (g dg : E
...
+    (F [⋀^ι]→L[𝕜] G) →L[𝕜] (E →L[𝕜] F) →L[𝕜] (E [⋀^ι]→L[𝕜] G) :=
+  LinearMap.mkContinuous
+    { toFun := (fderivCompContinuousLinearMap · g)
+      map_add' f₁ f₂ := by ext; simp [Finset.sum_add_distrib]
+      map_smul' c f := by ext; simp [Finset.smul_sum] }
+    (Fintype.card ι * ‖g‖ ^ (Fintype.card ι - 1))
+    fun f ↦ by
+      refine ContinuousLinearMap.opNorm_le_bound _ (by positivity) fun dg ↦ ?_
+      refine opNorm_le_bound _ (by positivity) fun v ↦ ?_
+      simp? [mul_assoc] says
```
Comment (grunweg) [inline Mathlib/Analysis/Normed/Module/Alternating/Basic.lean:537]: My understanding is that we try not to introduce new uses of `simp? says` --- and this one certainly doesn't feel absolutely. What do you think?

File: Mathlib/Analysis/Calculus/DifferentialForm/Basic.lean [hunk 8]
```diff
@@ -233,3 +235,32 @@ theorem extDeriv_extDeriv_apply (hω : ContDiffAt 𝕜 r ω x) (hr : minSmoothne
...
   funext fun _ ↦ extDeriv_extDeriv_apply h.contDiffAt hr
+
+/-- Exterior derivative within a set commutes with pullback. -/
+theorem extDerivWithin_pullback {ω : F → F [⋀^Fin n]→L[𝕜] G} {f : E → F} {t : Set F}
+    (hω : DifferentiableWithinAt 𝕜 ω t (f x)) (hf : ContDiffWithinAt 𝕜 r f s x)
+    (hr : minSmoothness 𝕜 2 ≤ r) (hs : UniqueDiffOn 𝕜 s)
+    (hxc : x ∈ closure (interior s)) (hxs : x ∈ s) (hst : MapsTo f s t) :
+    extDerivWithin (fun x ↦ (ω (f x)).compContinuousLinearMap (fderivWithin 𝕜 f s x)) s x =
+      (extDerivWithin ω t (f x)).compContinuousLinearMap (fderivWithin 𝕜 f s x) := by
+  have Hdf : DifferentiableWithinAt 𝕜 f s x :=
```
Comment (grunweg) [inline Mathlib/Analysis/Calculus/DifferentialForm/Basic.lean]: I'd expect `hdf` instead...
```suggestion
  have hdf : DifferentiableWithinAt 𝕜 f s x :=
```

File: Mathlib/Analysis/Calculus/DifferentialForm/Basic.lean [hunk 9]
```diff
@@ -233,3 +235,32 @@ theorem extDeriv_extDeriv_apply (hω : ContDiffAt 𝕜 r ω x) (hr : minSmoothne
...
+    hf.differentiableWithinAt <| one_le_two.trans <| le_minSmoothness.trans hr
+  have Hd2f : DifferentiableWithinAt 𝕜 (fderivWithin 𝕜 f s) s x :=
```
Comment (grunweg) [inline Mathlib/Analysis/Calculus/DifferentialForm/Basic.lean]:
```suggestion
  have hd2f : DifferentiableWithinAt 𝕜 (fderivWithin 𝕜 f s) s x :=
```

File: Mathlib/Analysis/Normed/Module/Alternating/Uncurry/Fin.lean [hunk 10]
```diff
@@ -165,21 +166,80 @@ theorem alternatizeUncurryFin_constOfIsEmptyLIE_comp (f : E →L[𝕜] F) :
...
+lemma _root_.Fin.removeNth_fun_const {α : Type*} {n : ℕ} (i : Fin (n + 1)) (a : α) :
+    i.removeNth (fun _ ↦ a) = (fun _ ↦ a) :=
+  rfl
+
+/-- If `f` is a continuous bilinear map taking values in the space of continuous alternating maps,
+then evaluation of the twice uncurried `f` on a tuple of vectors `v`
+can be represented as a sum of
+
+$$
+f(v_i, v_j; v_0, \dots, \hat{v_i}, \dots, \hat{v_j}-) -
```
Comment (grunweg) [inline Mathlib/Analysis/Normed/Module/Alternating/Uncurry/Fin.lean]: I'm a bit surprised about the `-)`: are these a typo for `)` / would you like to enlighten me about their role?

File: Mathlib/Analysis/Normed/Module/Alternating/Uncurry/Fin.lean [hunk 11]
```diff
@@ -165,21 +166,80 @@ theorem alternatizeUncurryFin_constOfIsEmptyLIE_comp (f : E →L[𝕜] F) :
...
-      (f := f.toLinearMap₁₂.compr₂ toAlternatingMapLinear)
-      (fun x y ↦ congr($(hf x y) |>.toAlternatingMap))]
-  rw [toAlternatingMap_alternatizeUncurryFin]
-  congr 1
-  ext
-  simp [alternatizeUncurryFin_apply, AlternatingMap.alternatizeUncurryFin_apply]
+  ext v
+  simp [alternatizeUncurryFin_alternatizeUncurryFinCLM_comp_apply, hf]
+
+/-- Derivative of `compContinuousLinearMap` can be represented
```
Comment (grunweg) [inline Mathlib/Analysis/Normed/Module/Alternating/Uncurry/Fin.lean]:
```suggestion
/-- The derivative of `compContinuousLinearMap` can be represented
```

File: Mathlib/Analysis/Normed/Module/Alternating/Uncurry/Fin.lean [hunk 12]
```diff
@@ -165,21 +166,80 @@ theorem alternatizeUncurryFin_constOfIsEmptyLIE_comp (f : E →L[𝕜] F) :
...
+    f.fderivCompContinuousLinearMap g = alternatizeUncurryFinCLM 𝕜 E G ∘L
+      ((compContinuousLinearMapCLM g ∘L f.curryLeft).postcomp E) := by
+  ext dg v
+  have (i j : Fin (n + 1)) :
+      i.insertNth (α := fun _ ↦ E →L[𝕜] F) dg (fun _ ↦ g) j (v j) =
+        i.insertNth (α := fun _ ↦ F) (dg (v i)) (g ∘ i.removeNth v) j := by
+    cases j using i.succAboveCases <;> simp [Fin.removeNth]
+  simp [alternatizeUncurryFin_apply, ← Fin.insertNth_removeNth, ← map_insertNth, this]
+
+/-- Alternatized uncurry of `fderivCompContinuousLinearMap f g`
```
Comment (grunweg) [inline Mathlib/Analysis/Normed/Module/Alternating/Uncurry/Fin.lean]: The current phrasing doesn't seem like correct grammar to me, how about just quoting the declaration?
```suggestion
/-- `alternatizeUncurryFin` of `fderivCompContinuousLinearMap f g`
```

**Review by grunweg — COMMENTED** [review]
Thanks a lot for all your work here. I'm sorry for the long waiting; I really wish I had more time right now than I do have. This looks very nice, I only have style comments.

The comment about matching the literature is pertinent, but pre-existing: we can (and perhaps should) revisit this later.

bors d+

File: Mathlib/Analysis/Normed/Module/Alternating/Uncurry/Fin.lean (hunk 10 above)
Comment (urkud) [reply Mathlib/Analysis/Normed/Module/Alternating/Uncurry/Fin.lean]: It's a typo.

File: Mathlib/Analysis/Normed/Module/Alternating/Basic.lean (hunk 7 above)
Comment (urkud) [reply Mathlib/Analysis/Normed/Module/Alternating/Basic.lean:537]: Do you have a link? I understand why we should avoid them at the end of a block, but what's wrong with this mid-proof usage? The unfolded version is less informative (but provides a good fallback in case if the proof will break after an upgrade).

File: Mathlib/Analysis/Normed/Module/Alternating/Basic.lean (hunk 5 above)
Comment (urkud) [reply Mathlib/Analysis/Normed/Module/Alternating/Basic.lean]: I'm removing this one.

File: Mathlib/Analysis/Normed/Module/Alternating/Basic.lean (hunk 7 above)
Comment (urkud) [reply Mathlib/Analysis/Normed/Module/Alternating/Basic.lean:537]: I think I've answered all other comments. I'm going to merge it when the CI is happy.

Comment (grunweg) [reply Mathlib/Analysis/Normed/Module/Alternating/Basic.lean:537]: This was discussed on zulip: https://leanprover.zulipchat.com/#narrow/channel/287929-mathlib4/topic/noisy.20simp.20says.20in.20CI/with/555592426
While the functionality of `simp? says` is useful, it can become a maintenance burden over time. The right fix could be to write tooling to detect this eagerly --- in the meantime, weighing carefully whether a particular use carries its weight seems right.
